US08022076B2
A stirred mixture of 5-bromo-4-chlorothieno[2,3-d]pyrimidine (3.8 g, 15.2 mmol), ethanol (250 ml), triethylamine (2.32 ml, 16.7 mmol) and 2-aminomethylpyridine (1.72 ml, 16.7 mmol) was heated under reflux for 2.5 hours. The solution was then cooled to ambient temperature, poured into water (300 ml) and extracted with dichloromethane (3×150 ml). The combined organic extracts were dried (MgSO4) and the solvent removed in vacuo to give the crude product. Purification by flash chromatography (silica) eluting with ethyl acetate and 40°-60° petroleum ether (1:1) gave (5-bromothieno[2,3-d]pyrimidin-4-yl)pyridin-2-ylmethylamine as a yellow solid (3.12 g), m.pt. 127°-129° C.

reactant | 5-bromo-4-chlorothieno[2,3-d]pyrimidine | 15.2 mmol, 3.8 g | BrC1=CSC=2N=CN=C(C21)Cl | C6H2BrClN2S
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | triethylamine | 16.7 mmol, 2.32 ml | C(C)N(CC)CC | C6H15N
reactant | 2-aminomethylpyridine | 16.7 mmol, 1.72 ml | NCC1=NC=CC=C1 | C6H8N2
solvent | water | 300 ml | O | H2O
product | (5-bromothieno[2,3-d]pyrimidin-4-yl)pyridin-2-ylmethylamine | 3.12 g | BrC1=CSC=2N=CN=C(C21)NCC2=NC=CC=C2 | C12H9BrN4S
